US07226951B2
6-Bromo-2,2-diethyl-4,4-dimethylchroman (Intermediate 25)
A solution of 6-bromo-4,4-dimethyl-chroman-2-one (U.S. Pat. No. 6,252,090, 4 g, 15.7 mmol) in anhydrous tetrahydrofuran (20 mL) was treated with a 3M solution of ethyl magnesium bromide (10.5 mL, 31.5 mmol) and stirred at ambient temperature for 2 h. The reaction mixture was poured into cold dilute hydrochloric acid and extracted with ethyl acetate (×2). The combined organic extract was dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to afford a residue which was dissolved in 50 mL of benzene, treated with p-toluene sulfonic acid (1 g, 3.92 mmol) and the resulting reaction mixture was refluxed overnight. The reaction mixture cooled to ambient temperature, filtered on silica gel and washed with 10% ethyl acetate in hexane. The filtrate and washings were evaporated in vacuo to an oil which was subjected to flash column chromatography over silica gel (230–400 mesh) using 5% ethyl acetate in hexane as the eluent to afford the title compound as a pale yellow oil (3.9 g, 84%).

reactant | 6-bromo-4,4-dimethyl-chroman-2-one | BrC=1C=C2C(CC(OC2=CC1)=O)(C)C | C11H11BrO2
reactant | ethyl magnesium bromide | 31.5 mmol, 10.5 mL | C(C)[Mg]Br
reactant | hydrochloric acid | Cl | ClH
reactant | p-toluene sulfonic acid | 3.92 mmol, 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 6-Bromo-2,2-diethyl-4,4-dimethylchroman | 3.9 g, 84% | BrC=1C=C2C(CC(OC2=CC1)(CC)CC)(C)C | C15H21BrO
